*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXJ250ARA681MJC5G
*//   Date        : 2023/11/09
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXJ250ARA681MJC5G_20deg-C 1 2

C1 4 2 4.32e-04
C2 5 2 1.23e-04
C3 6 2 9.10e-05
R1 3 4 1.07e-02
R2 4 5 5.34e-02
R3 5 6 8.42e-01
L1 1 3 5.20e-09

.ENDS
*$
